US05410061
i) 1-Propylindole-6-carboxylic acid methyl ester
This compound was prepared from methyl-6-indolecarboxylate and propyliodide by the method described in Example 10, part i. The reaction mixture was worked up by removal of the dimethylformamide in vacuo and the residue partitioned between diethyl ether and water. The organic phase was further washed with water and brine, dried and evaporated. The resulting oil was purified by chromatography on flash silica eluting with petroleum spirit 40°-60° C.-diethyl ether (9:1) to give the product as a colourless oil.

reactant | methyl-6-indolecarboxylate | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | propyliodide | C(CC)I | C3H7I
product | 1-Propylindole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CN(C2=C1)CCC | C13H15NO2
